US04183924
J. 17α-Benzylthio-1,4-Androstadiene-3-One
To 2.25 gm. of sodium metal dissolved in 185 ml. of ethanol is added 8.2 ml. of benzyl mercaptan followed by 3 gm. of 17β-methanesulfonyloxy-1,4-androstadiene-3-one. The reactants are heated to reflux for 48 hours. Pour the reaction mixture into 5% NaOH solution and extract with ethyl acetate. Wash the ethyl acetate extracts with water, dry over Na2SO4, and evaporate to a residue. The residue is purified on a 300 gm. silica gel column eluting with chloroform/ethyl acetate (2:1) to obtain the title compound.

reactant | sodium | [Na] | Na
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | 17β-methanesulfonyloxy-1,4-androstadiene-3-one | CS(=O)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O | C20H28O4S
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 17α-Benzylthio-1,4-Androstadiene-3-One | C(C1=CC=CC=C1)S[C@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O | C26H32OS
